US08357679B2
C: 4-Amino-2-bromo-5-fluorobenzoic acid
A solution of the intermediate methyl 4-amino-2-bromo-5-fluorobenzoate (5.24 mmol, 1.3 g) in tetrahydrofuran (15 mL) was treated with a solution of lithium hydroxide (15.72 mmol, 0.66 g) in water (15 mL) and stirred at 60° C. for 4 hours. The reaction mixture was then cooled to room temperature, taken to ˜pH 5 with dilute hydrochloric acid and concentrated under vacuum. The residue was dissolved in tetrahydrofuran and purified by column chromatography (9:1 dichloromethane/methanol) to give the title compound (1.1 g). 1H NMR ((CD3)2SO, 400 MHz): δ6.11 (2H, s), 7.02 (1H, d), 7.52 (1H, d)

reactant | methyl 4-amino-2-bromo-5-fluorobenzoate | 5.24 mmol, 1.3 g | NC1=CC(=C(C(=O)OC)C=C1F)Br | C8H7BrFNO2
reactant | lithium hydroxide | 15.72 mmol, 0.66 g | [OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
product | 4-Amino-2-bromo-5-fluorobenzoic acid | 1.1 g | NC1=CC(=C(C(=O)O)C=C1F)Br | C7H5BrFNO2
